US09144239B2
Step 6: Preparation of N-((3S,7S,8S,9S)-7,8-diisobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide (compound 1)
To a mixture of (3S,7S,8S,9S)-3-amino-7,8-diisobutoxy-9-methyl-1,5-dioxonan-2-one (170 mg, 0.536 mmol), 3-hydroxy-4-methoxypicolinic acid (136 mg, 0.803 mmol) and HATU (336 mg, 0.857 mmol) in a vial was added CH2Cl2 (3 mL), followed by 4-methylmorpholine (0.353 mL, 3.21 mmol), and the resulting suspension was stirred at room temperature for 3 h. The resulting orange solution was directly purified by flash chromatography (SiO2) to afford the title compound as a white solid (176 mg, 70%): 1H NMR (400 MHz, CDCl3) δ 11.95 (s, 1H), 8.68 (d, J=8.0 Hz, 1H), 8.00 (d, J=5.2 Hz, 1H), 6.87 (d, J=5.2 Hz, 1H), 5.10-5.00 (m, 1H), 4.97 (dt, J=12.6, 6.3 Hz, 1H), 4.10-4.01 (m, 1H), 3.94 (s, 3H), 3.87-3.78 (m, 2H), 3.71 (dd, J=8.4, 6.1 Hz, 1H), 3.66-3.57 (m, 1H), 3.38-3.28 (m, 2H), 3.28-3.17 (m, 3H), 1.90-1.76 (m, 2H), 1.45 (t, J=5.8 Hz, 3H), 0.98-0.88 (m, 12H); 13C NMR (101 MHz, CDCl3) δ 170.33, 168.95, 155.38, 148.76, 140.66, 130.23, 109.58, 84.84, 83.75, 80.60, 77.74, 75.32, 73.97, 73.23, 56.11, 52.19, 29.13, 28.89, 19.60, 19.48, 19.47, 19.39, 18.66; ESIMS m/z 469.4 ([M+H]+).

reactant | (3S,7S,8S,9S)-3-amino-7,8-diisobutoxy-9-methyl-1,5-dioxonan-2-one | 0.536 mmol, 170 mg | N[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OCC(C)C)OCC(C)C)C)=O | C16H31NO5
reactant | 3-hydroxy-4-methoxypicolinic acid | 0.803 mmol, 136 mg | OC=1C(=NC=CC1OC)C(=O)O | C7H7NO4
reactant | HATU | 0.857 mmol, 336 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 3.21 mmol, 0.353 mL | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-((3S,7S,8S,9S)-7,8-diisobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide | 176 mg, 70% | C(C(C)C)O[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCC(C)C)C)=O)NC(C1=NC=CC(=C1O)OC)=O | C23H36N2O8
